US07964607B2
(b) 6-{(3S,4S)-4-ethyl-1-[(5-methylpyrazin-2-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
To a solution of 6-[(3S,4S)-4-ethylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one (4.4 g) in dimethylformamide (62 mL) was added acetic acid (2.4 mL), 5-methylpyrazine-2-carbaldehyde (2 g) and sodium triacetoxyborohydride (5.27 g). The reaction mixture stirred for 2 h at ambient temperature and was carefully quenched with saturated sodium bicarbonate solution, extracted 3× with methylene chloride, dried with magnesium sulfate, filtered and concentrated. Purification via Biotage MPLC chromatography eluting with 1-4% methanolmethylene chloride/0.5% saturated ammonium hydroxide provided the title compound (3.9 g). 400 MHz 1H NMR (CDCl3) δ 8.52-8.48 (m, 1H), 8.38 (s, 1H), 8.02 (s, 1H), 4.81-4.75 (m, 1H), 4.11-4.01 (m, 3H), 3.79-3.75 (m, 1H), 3.60-3.53 (m, 2H), 3.40-3.32 (m, 1H), 3.10-3.08 (m, 1H), 2.94 (m, 1H), 2.63-2.57 (m, 1H), 2.53 (d, J=7.5 Hz, 1H), 2.37-2.18 (m, 4H), 1.90-1.83 (m, 2H), 1.67-1.60 (m, 1H), 1.54-1.47 (m, 1H), 0.95-0.92 (m, 3H). MS: (M+H m/z 424.2).

reactant | 6-[(3S,4S)-4-ethylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | 4.4 g | C(C)[C@H]1[C@@H](CNC1)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C16H23N5O2
reactant | acetic acid | 2.4 mL | C(C)(=O)O | C2H4O2
reactant | 5-methylpyrazine-2-carbaldehyde | 2 g | CC=1N=CC(=NC1)C=O | C6H6N2O
reactant | sodium triacetoxyborohydride | 5.27 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dimethylformamide | 62 mL | CN(C=O)C | C3H7NO
product | 6-{(3S,4S)-4-ethyl-1-[(5-methylpyrazin-2-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | 3.9 g | C(C)[C@H]1[C@@H](CN(C1)CC1=NC=C(N=C1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C22H29N7O2
